US05932601
In substantially the same manner as in Working Example 18, 2-[6-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]hexyl]-1,3-dioxolan was condensed with 2,4-oxazolidinedione. The condensate was subjected to catalytic hydrogenation to yield 5-[7-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]heptyl]-2,4-oxazolidinedione, which was recrystallized from ethyl acetate-hexane to give colorless prisms, m.p.109-111° C.

reactant | 2-[6-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]hexyl]-1,3-dioxolan | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CCCCCCC1OCCO1 | C27H33NO5
reactant | 2,4-oxazolidinedione | O1C(NC(C1)=O)=O | C3H3NO3
product | 5-[7-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]heptyl]-2,4-oxazolidinedione | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CCCCCCCC1C(NC(O1)=O)=O | C28H32N2O6
